US08791123B2
(R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-isopropylpyrazolo[1,5-a]pyrimidine-3-carboxamide
To a DMF (1.0 mL) solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 80 mg, 0.244 mmol) was added HATU (112 mg, 0.293 mmol) and propan-2-amine (0.0250 ml, 0.293 mmol) at ambient temperature, followed by drop-wise addition of DIEA (0.128 ml, 0.733 mmol) at 0° C. After stirring for 5 minutes at ambient temperature, the reaction was poured into 1:1 water/saturated NaHCO3 (15 mL) and the layers were separated. The aqueous layer was extracted with EtOAc (3×15 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated. The crude material was purified by reverse-phase chromatography (5 to 54% acetonitrile/water) to yield the final product as white solid (26 mg, 29%). LCMS (apci) m/z=369.1 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.244 mmol, 80 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HATU | 0.293 mmol, 112 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | propan-2-amine | 0.293 mmol, 0.0250 ml | CC(C)N | C3H9N
reactant | DIEA | 0.733 mmol, 0.128 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 15 mL | O | H2O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-isopropylpyrazolo[1,5-a]pyrimidine-3-carboxamide | 26 mg, 29% | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC(C)C | C19H21FN6O
